US05399291
Preparation of 5-Butyl-2-(4-(2,2,3,3,4,4-hexafluoro-5-butoxypentoxy)phenyl)pyrimidine (Compound 20, Table 1)
Dry sodium hydride (0.5 g, 0.0206 moles) was weighed into a 100 ml flask in a glove bag under dry nitrogen. The flask was then fitted with a magnetic stir bar and a water-cooled condenser with a nitrogen inlet. 15 ml of toluene and 15 ml of anhydrous N,N-dimethylformamide were added, and then 2.5 g (0.0110 moles) of 4-butyl-2-(4-hydroxyphenyl)pyrimidine was added slowly to control the rate of hydrogen evolution. After stirring at room temperature for 20 minutes, 4.4 g (0.0110 moles) of 2,2,3,3,4,4-hexafluoro-5-butoxypentyl trifluoromethanesulfonate (prepared essentially as described in Example 2) was added, and the contents were heated to reflux for 1 hour. Upon cooling to room temperature, the contents of the flask were poured into a separatory funnel containing 50 ml of water. The funnel was shaken and the two layers formed were allowed to separate. The aqueous layer was extracted twice with 20 ml aliquots of toluene. The three organic layers were combined, then washed four times with 25 ml aliquots of deionized water, dried with anhydrous sodium sulfate, and stripped of solvent on a rotary evaporator. The resulting oil was chromatographed on silica gel, eluting with chloroform, to yield 2.85 g of pale yellow liquid, 5-butyl-2-(4-(2,2,3,3,4,4-hexafluoro-5-butoxypentoxy)phenyl)pyrimidine.

reactant | sodium hydride | 0.0206 moles, 0.5 g | [H-].[Na+]
reactant | 4-butyl-2-(4-hydroxyphenyl)pyrimidine | 0.0110 moles, 2.5 g | C(CCC)C1=NC(=NC=C1)C1=CC=C(C=C1)O | C14H16N2O
reactant | hydrogen | [H][H] | H2
reactant | 2,2,3,3,4,4-hexafluoro-5-butoxypentyl trifluoromethanesulfonate | 0.0110 moles, 4.4 g | FC(S(=O)(=O)OCC(C(C(COCCCC)(F)F)(F)F)(F)F)(F)F | C10H13F9O4S
solvent | water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Butyl-2-(4-(2,2,3,3,4,4-hexafluoro-5-butoxypentoxy)phenyl)pyrimidine | 2.85 g | C(CCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OCC(C(C(COCCCC)(F)F)(F)F)(F)F | C23H28F6N2O2
